US08242125B2
107-C. N-(3-((isopropylamino)methyl)-5-(trifluoromethyl)phenyl)-5-(5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-yloxy)-1H-indole-1-carboxamide
To a solution of the above mixture (0.15 g, 0.227 mmol) in 3 mL of DCM, isopropyl amine (0.06 mL, 0.680 mmol) is added followed by sodium iodide (0.1 g, 0.68 mmol). After 45 min, LC-MS shows that tert-butyl 4-(1-(3-((methylsulfonyloxy)methyl)-5-(trifluoromethyl)phenylcarbamoyl)-1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate is converted to desired product and the tert-butyl 4-(1-(3-(chloromethyl)-5-(trifluoromethyl)phenylcarbamoyl)-1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate left over. To the reaction 3 mL (0.227 mmol) of isopropyl amine is added followed by NaI (0.1 g, 0.68 mmol) and the mixture is heated to 45° C. for 2 h. The solvent is then removed and the residue diluted with EtOAc, washed with H2O, brine and the organic layer dried over Na2SO4. Following concentration the residue is separated by FCC (25-100% EtOAc/heptane). This product is then treated with 60 mL of 50% TFA/DCM at rt for 1.5 h. After concentration the residue is separated by semi-prep HPLC (C-18; 10-100% I/H2O with 0.1% NH4OH) to provide the title compound. MS (ESI) m/z 525.2 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 10.33 (s, 1H), 8.40 (s, 1H), 8.27 (d, J=8.8 Hz, 1H), 8.13 (d, J=3.8 Hz, 1H), 7.95 (d, J=15.2 Hz, 2H), 7.38-7.52 (m, 2H), 7.11 (dd, J=9.0, 2.4 Hz, 1H), 6.78 (d, J=3.8 Hz, 1H), 3.81 (d, J=7.6 Hz, 4H), 3.03 (t, J=5.8 Hz, 2H), 2.68-2.79 (m, 3H), 1.03 (d, J=6.1 Hz, 6H).

reactant | isopropyl amine | 0.680 mmol, 0.06 mL | C(C)(C)N | C3H9N
reactant | sodium iodide | 0.68 mmol, 0.1 g | [I-].[Na+]
reactant | tert-butyl 4-(1-(3-((methylsulfonyloxy)methyl)-5-(trifluoromethyl)phenylcarbamoyl)-1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate | CS(=O)(=O)OCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CN(CC2)C(=O)OC(C)(C)C | C30H30F3N5O7S
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(3-((isopropylamino)methyl)-5-(trifluoromethyl)phenyl)-5-(5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-yloxy)-1H-indole-1-carboxamide | C(C)(C)NCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNCC2 | C27H27F3N6O2
